US08314092B2
Synthesis of ethyl 1-(2-amino-5-chlorobenzyl)-4-bromo-1H-pyrrole-2-carboxylate
To a well-stirred solution of ethyl 4-bromo-1-(5-chloro-2-nitrobenzyl)-1H-pyrrole-2-carboxylate (9.1 g, 23.48 mmoles) in acetic acid (60.00 mL) at 70° C., add iron (5 equiv; 6.56 g, 117.38 mmoles) in portions over 0.5 h. Halfway through the addition, observe an exotherm to maintain a temperature of 85° C. with the oil-bath removed. The reaction mixture will get thicker as the exotherm dissipates and the rest of the iron can be added. Stir at 85° C. for 0.5 h. Cool to room temperature and pour onto water (200 mL). Extract into chloroform (2×200 mL). Combine organic layers and wash with water (2×100 mL) then saturated aqueous NaHCO3 solution. Dry over Na2SO4, filter and evaporate to the title compound as an orange oil (7.7 g, 92% yield). MS (m/z): 358.98 (M+1).

reactant | ethyl 4-bromo-1-(5-chloro-2-nitrobenzyl)-1H-pyrrole-2-carboxylate | 23.48 mmoles, 9.1 g | BrC=1C=C(N(C1)CC1=C(C=CC(=C1)Cl)[N+](=O)[O-])C(=O)OCC | C14H12BrClN2O4
solvent | acetic acid | 60.00 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 117.38 mmoles, 6.56 g, 5 equiv | [Fe] | Fe
product | ethyl 1-(2-amino-5-chlorobenzyl)-4-bromo-1H-pyrrole-2-carboxylate | 7.7 g, 92% yield | NC1=C(CN2C(=CC(=C2)Br)C(=O)OCC)C=C(C=C1)Cl | C14H14BrClN2O2
